### PR TITLE
feat: preserve binary code divisibility under operations

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR proves that even and doubly-even binary codes are closed under direct sum and invariant under coordinate permutation and monomial equivalence. It also identifies monomial transformations with coordinate permutations over any ring whose only unit is one — the binary field in particular — and consequently proves literal equalities of the monomial and permutation groups and of the corresponding code automorphism groups.

The exact target is `AlgebraicCodingTheory/README.md`, Layer 4, “binary doubly-even and Type II codes,” third bullet: “Prove closure of doubly-even and Type II codes under direct sum and preservation under coordinate permutation. Record the exact behavior under general monomial and semilinear maps, even though these collapse to permutations over `F₂`.” The designated milestone is Layer 4. This is the most effective currently independent step because the Type II predicate and length theorem are in open PR #7476 and semilinear equivalence is in open PR #7517, while the doubly-even direct-sum and monomial-collapse statements use only APIs already on `main`. After this PR, that bullet still needs Type II closure and invariance after #7476 lands, and the semilinear specialization after #7517 lands.

The new module `TauCeti/InformationTheory/Coding/Binary/Operations.lean` supplies forward closure lemmas and `iff` characterizations for evenness and double evenness under direct sum, and their invariance under monomial and permutation equivalence. Following the first round of review, the supporting results live in the modules whose API they extend rather than in the binary module: `Submodule.forall_dvd_hammingNorm_directSum_iff` (with the two zero-padding membership lemmas it uses) in `Coding/DirectSum.lean`, proving the divisibility criterion once for a natural number `k` over an arbitrary semiring; and, in `Coding/Equivalence.lean`, `IsMonomialEquivalent.exists_mem_hammingNorm_eq`, `hammingNorm_funCongrLeft`, and the collapse results `monomialEquiv_eq_funCongrLeft`, `monomialGroup_eq_permutationGroup`, `isMonomialEquivalent_iff_isPermutationEquivalent` and `monomialAut_eq_permutationAut`, stated for `[CommSemiring R] [Subsingleton Rˣ]`, which the binary case resolves by instance.

No Mathlib infrastructure or external formalization is vendored. The mathematical conventions follow Huffman and Pless, *Fundamentals of Error-Correcting Codes*, Chapters 1 and 9, cited in the module docstring.

Roadmap: AlgebraicCodingTheory

🤖 Prepared with Codex

### CODE REVIEW

**Comment by mccorvie-agent** [comment]
🔍 Review in progress — `claude` reviewing `1776b8a87ad8`.

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (mccorvie-agent) [inline TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: ### 🟡 reuse — request_changes  `claude/claude-opus-5`

The direct-sum divisibility criterion, the monomial transport lemma and the trivial-units collapse results are new and reuse existing API; my earlier objection to the relabelling weight/distance wrappers is withdrawn, since they are now `@[simp]` in the `LinearMap.funLeft` simp-normal form that `Equiv.hammingNorm_comp` cannot match syntactically and each has a consumer. Three residual duplications remain: an unused support restatement, two re-proved directional lemmas, and seven hand-rolled copies of the new zero-padding membership lemmas.

- `TauCeti/InformationTheory/Coding/Equivalence.lean:149` — `support_funLeft` restates Mathlib's `Function.support_comp_eq_preimage` (a `rfl` lemma) up to `Equiv.image_eq_preimage_symm`, and copies the proof of the existing `support_monomialEquiv` (Equivalence.lean:107, the `u = 1` case via `monomialEquiv_one`, line 89) instead of reusing either. It has no consumer anywhere in the repo. _Fix:_ Delete `support_funLeft`; the weight and distance lemmas below it do not use it, and nothing else does.
- `TauCeti/InformationTheory/Coding/Binary/Operations.lean:62` — `IsEven.of_isMonomialEquivalent` (line 62) and `IsDoublyEven.of_isMonomialEquivalent` (line 74) re-derive from `h.forall_dvd_hammingNorm_iff` what the adjacent `iff` lemmas already give, duplicating the `rw`/`simp only` unfolding twice. _Fix:_ Prove them as `(isEven_iff_of_isMonomialEquivalent h).mp hC` and `(isDoublyEven_iff_of_isMonomialEquivalent h).mp hC`, matching the `.mpr` pattern already used for `IsEven.directSum` (line 44) and `IsDoublyEven.directSum` (line 55).
- `TauCeti/InformationTheory/Coding/DirectSum.lean:56` — The new `sumElim_zero_mem_directSum`/`zero_sumElim_mem_directSum` (lines 56, 61) leave seven identical hand-rolled copies of the same derivation in the repository, so the fact now exists both as named API and as inline duplicates. _Fix:_ Replace those occurrences with the new lemmas: `Submodule.sumElim_zero_mem_directSum D hx` / `Submodule.zero_sumElim_mem_directSum C hy`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 94s · 42 in / 17.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/96a55b3a0f2514126d06fa1dd834816f43fd92e3...c09bc9b741c46d43bbf61c94f001a879c79b29ca) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/reuse.md)</sub>

Comment (mccorvie-agent) [inline TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: ### 🟡 api-design — request_changes  `claude/claude-opus-5`

Prior findings on duplicate permutation wrappers, the missing general monomial divisibility lemma, and the absent funLeft normal-form lemmas are all addressed. The three new funLeft simp lemmas are stated with an `e.symm` argument, so they cannot fire on the bare `funLeft R R e` shape that `reindex` and `coe_permutationCodeEquiv_symm_apply` produce.

- `TauCeti/InformationTheory/Coding/Equivalence.lean:157` — `@[simp] support_funLeft` (:149), `hammingNorm_funLeft` (:157) and `hammingDist_funLeft` (:164) key on `LinearMap.funLeft R R ⇑(Equiv.symm e)`, which never matches a bare `funLeft R R ⇑e`. The PR's own `@[simp] monomialEquiv_eq_funCongrLeft` (:617) makes `funLeft` the normal form, but `reindex C e = C.map (funCongrLeft F F e)` (Reindex.lean:48) and `@[simp] coe_permutationCodeEquiv_symm_apply` (:210) both yield the bare shape, so simp gets stuck on the weight/distance/support of those words. _Fix:_ Take the equivalence directly: `hammingNorm_funLeft (e : κ ≃ ι) (x : ι → R) : hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x := Equiv.hammingNorm_comp e x`, and likewise for `hammingDist_funLeft` and `support_funLeft` (`support (funLeft R R e x) = ⇑e ⁻¹' support x`). This form also matches the `e.symm` occurrences, so the existing call sites at :506 and :513 still close.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`claude/claude-opus-5` · 85s · 24 in / 15.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/96a55b3a0f2514126d06fa1dd834816f43fd92e3...c09bc9b741c46d43bbf61c94f001a879c79b29ca) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/api-design.md)</sub>

Comment (mccorvie-agent) [inline TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: ### ✅ generality — now passing on `5bd8114`.

Comment (mccorvie-agent) [inline TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: ### ✅ placement — now passing on `5bd8114`.

Comment (mccorvie-agent) [inline TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: ### ✅ naming — now passing on `5bd8114`.

Comment (mccorvie-agent) [inline TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: ### ✅ proof-quality — now passing on `5bd8114`.

**Comment by mccorvie-agent** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ♻️ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/correctness.md) | stale (re-run pending) | `claude/claude-opus-5` | Every new statement matches its intended mathematics: the direct-sum iffs have real content in both directions via Sum.elim witnesses, and the monomial-collapse equalities are genuine subgroup equalities resting on Unique (ZMod 2)ˣ plus the existing permutationGroup_le_monomialGroup. No vacuous, placeholder, or over-assumed statements found. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/reuse.md) | changes requested | `claude/claude-opus-5` | The direct-sum divisibility criterion, the monomial transport lemma and the trivial-units collapse results are new and reuse existing API; my earlier objection to the relabelling weight/distance wrappers is withdrawn, since they are now `@[simp]` in the `LinearMap.funLeft` simp-normal form that `Equiv.hammingNorm_comp` cannot match syntactically and each has a consumer. Three residual duplications remain: an unused support restatement, two re-proved directional lemmas, and seven hand-rolled copies of the new zero-padding membership lemmas. |
| ♻️ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/scope.md) | stale (re-run pending) | `claude/claude-opus-5` | The PR proves the direct-sum closure, permutation invariance, and binary monomial-collapse statements of AlgebraicCodingTheory/README.md Layer 4 bullet three, which the description cites explicitly; all consumed APIs and the Layer 4 predicate stage are already on main. It is a single coherent unit with no bundled refactor. |
| ♻️ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/attribution.md) | stale (re-run pending) | `claude/claude-opus-5` | The module credits its informal source (Huffman & Pless, Chapters 1 and 9) in the docstring, matching the roadmap's designated reference and the citation style of sibling coding files. No external or Mathlib formalization is vendored or closely followed, and the roadmap is credited only in the PR description. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/api-design.md) | changes requested | `claude/claude-opus-5` | Prior findings on duplicate permutation wrappers, the missing general monomial divisibility lemma, and the absent funLeft normal-form lemmas are all addressed. The three new funLeft simp lemmas are stated with an `e.symm` argument, so they cannot fire on the bare `funLeft R R e` shape that `reindex` and `coe_permutationCodeEquiv_symm_apply` produce. |
| ♻️ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/generality.md) | stale (re-run pending) | `claude/claude-opus-5` | The divisibility criterion is now proved once for a general natural number k over an arbitrary semiring and the monomial-collapse results are stated under [CommSemiring R] [Subsingleton Rˣ] rather than fixing ZMod 2; the invariance lemmas assume monomial equivalence with the permutation cases derived. Assumptions are minimal and the statements sit at their natural level. |
| ♻️ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/placement.md) | stale (re-run pending) | `claude/claude-opus-5` | The generic collapse theorems now live in Coding/Equivalence.lean beside monomialGroup/permutationGroup, the divisibility criterion in Coding/DirectSum.lean beside the weight-additivity lemma, and only binary-specific statements remain in the new Binary/Operations.lean, matching the MinimumDistance/Operations.lean convention. Imports are minimal and all used. |
| ♻️ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/naming.md) | stale (re-run pending) | `claude/claude-opus-5` | Names describe their conclusions in standard terminology, `_iff`/`_eq` suffixes match the proved strength, and namespaces follow the surrounding coding API; no notation is introduced. The previous round's finding is met — the collapse lemmas now name their right-hand sides — and the `_iff_of_<equivalence>` congruence shape matches Mathlib precedent (`isSheafFor_iff_of_iso`, `isLocalization_iff_of_ringEquiv`), so I withdraw that objection. |
| ♻️ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/documentation.md) | stale (re-run pending) | `claude/claude-opus-5` | The module docstring states what lives in the file and its mathematical purpose without roadmap or process narrative, and every public theorem carries an accurate docstring describing the result rather than the proof. Preservation vs. iff wording matches the statements in each case. |
| ♻️ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/proof-quality.md) | stale (re-run pending) | `claude/claude-opus-5` | All four prior proof-quality findings are fixed: the direct-sum divisibility criterion is proved once as `Submodule.forall_dvd_hammingNorm_directSum_iff`, the duplicated invariance scripts route through the new `IsMonomialEquivalent.exists_mem_hammingNorm_eq`, and `hammingNorm_funCongrLeft` replaces the ad-hoc `u = 1` instantiation. Remaining proofs are short, free of `change`/`show`, and confine defeq reliance to one documented named lemma. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/96a55b3a0f2514126d06fa1dd834816f43fd92e3...c09bc9b741c46d43bbf61c94f001a879c79b29ca) at head `c09bc9b`. rubrics @ [`9e06df9`](https://github.com/TauCetiProject/TauCetiReview/tree/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics). Review spend: $24.49.</sub>

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (sqrt-of-2) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: Fixed in 5bd8114, except for one `@[simp]` that the environment linter forbids.

- **`directSumEquivProd` round-trip / repeated `Sum.elim … ∈ directSum` block.** Both are gone. The divisibility criterion is now proved once, for a natural number `k` and an arbitrary semiring, as `Submodule.forall_dvd_hammingNorm_directSum_iff`, using `mem_directSum_iff`, `Sum.elim_comp_inl_inr` and `hammingNorm_sumElim` exactly as suggested; the two zero-padding membership steps are the new `Submodule.sumElim_zero_mem_directSum` / `zero_sumElim_mem_directSum`. `isEven_directSum_iff` and `isDoublyEven_directSum_iff` are its instances at `k = 2` and `k = 4`, and the two `.directSum` closure lemmas are their `.mpr`.
- **Duplicated invariance scripts.** The reusable step is now `TauCeti.IsMonomialEquivalent.exists_mem_hammingNorm_eq` in `Coding/Equivalence.lean`. Following the generality thread's third bullet it is stated for monomial equivalence (weight preservation needs no triviality of units), and the permutation versions are derived through `IsPermutationEquivalent.isMonomialEquivalent`; each of the eight binary lemmas is now one short script or a single term.
- **`hammingNorm_funCongrLeft`.** Added in `Coding/Equivalence.lean` with the suggested proof (`Equiv.hammingNorm_comp e.symm x`) and used in `hammingNorm_apply_of_mem_permutationGroup`. It is *not* `@[simp]`: `scripts/lint-env.sh` (the `#lint` gate that runs on `main`) rejects that attribute, because the left-hand side is not in simp normal form —

  ```
  lint-env: NEW violation(s) not in the grandfathered baseline:
    [simpNF]
    #check @TauCeti.hammingNorm_funCongrLeft /- Left-hand side simplifies from
      hammingNorm ((LinearEquiv.funCongrLeft R R e.symm) x)
    to
      hammingNorm ((LinearMap.funLeft R R ⇑e.symm) x)
    using
      simp only [*, LinearEquiv.funCongrLeft_apply]
  ```

  Silencing the linter is not an option under the repo rules, so the lemma is a plain `theorem` with a docstring recording why. With the attribute dropped, `lint-env.sh` reports `PASS — no new violations`.

Verified: `lake build` (12767 jobs) and `lake exe axioms` (144126 declarations, allowlist only) are green, as are `lint-env.sh`, `lint-style.sh`, the dot-notation lint and the duplicate-declaration audit.

Comment (sqrt-of-2) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: Fixed in 5bd8114.

- **Direct sums.** `Submodule.forall_dvd_hammingNorm_directSum_iff (C D) (k : ℕ)` is now the single proof, in `Coding/DirectSum.lean` for an arbitrary semiring; `isDoublyEven_directSum_iff` is its instance at `k = 4`, `isEven_directSum_iff` at `k = 2` through `even_iff_two_dvd`, and both `.directSum` closure lemmas are the `.mpr` of those.
- **Invariance.** The transport step is now `TauCeti.IsMonomialEquivalent.exists_mem_hammingNorm_eq` in `Coding/Equivalence.lean`, and the bare relabelling step is `TauCeti.hammingNorm_funCongrLeft` (proved by `Equiv.hammingNorm_comp e.symm x`, as you suggested), which also replaces the inline `Equiv.hammingNorm_comp` in `hammingNorm_apply_of_mem_permutationGroup`.

One deviation from the suggested shape, to avoid contradicting the generality thread (https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4059878914, round 1, third bullet: "State `IsEven.of_isMonomialEquivalent` / `IsDoublyEven.of_isMonomialEquivalent` as the primary lemmas … and obtain the permutation versions via `IsPermutationEquivalent.isMonomialEquivalent`"): the shared lemma is stated for *monomial* equivalence rather than permutation equivalence, so the primary binary lemmas are the monomial ones and the permutation ones are one-line consequences. That keeps `hammingNorm_funCongrLeft` in the API for the relabelling case while not assuming the binary collapse where it is not needed.

**Comment by mccorvie-agent** [comment]
🔍 Review in progress — `claude` reviewing `5bd811425457`.

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (mccorvie-agent) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `5bd8114`; the finding stands — The direct-sum divisibility criterion and the monomial-collapse results are new and reuse existing API; the one exception is `hammingNorm_funCongrLeft`, a public restatement of `Equiv.hammingNorm_comp` up to unfolding with a single call site.

<sub>`claude/claude-opus-5` · addresses your replies through comment 4059987715.</sub>

Comment (mccorvie-agent) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `5bd8114`; this clears the finding ✅ — approved on `5bd8114`.

<sub>`claude/claude-opus-5` · addresses your replies through comment 4059986637.</sub>

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (CBirkbeck) [inline TauCeti/InformationTheory/Coding/Equivalence.lean:1]: ### ✅ reuse — now passing on `5b395c7`.

**Comment by CBirkbeck** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The new divisibility, direct-sum, and equivalence statements faithfully express the claimed mathematics, including degenerate divisors and semirings with subsingleton unit groups. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The new material provides distinct divisibility, transport, and trivial-unit collapse APIs; the relabelling simp lemmas and directional closure lemmas have justified normal forms and consumers rather than constituting unnecessary duplication. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently advances the cited Layer 4 target: binary evenness and double-evenness under direct sums and equivalences, with directly necessary generic support lemmas. The supporting changes remain part of that single topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The central informal source is credited in the new binary operations module, and the direct-sum convention is credited in its defining module. The remaining equivalence lemmas are routine consequences of the existing definitions and require no additional attribution. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The binary operations API omits the coordinate-permutation invariance promised by the roadmap, exposing only its monomial generalization. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The new declarations are stated at the natural levels: the divisibility criterion is generic over semirings and arbitrary divisors, while binary evenness results are clean specializations derived from it. No materially unused or overly strong assumptions are evident. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The binary closure results, generic direct-sum divisibility lemma, and equivalence results are placed in their natural topic modules. Each new import is directly used and none is unnecessarily broad. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | Two coordinate-relabelling lemmas are placed in the wrong namespace for their first explicit argument. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new module and public declarations are documented accurately, with mathematical purpose and scope matching their statements. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The changed proofs are short, structured around reusable lemmas, and avoid undocumented `change`/`show` or brittle rewrite chains. The limited `simpa` uses are transparent and appropriately constrained. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/96a55b3a0f2514126d06fa1dd834816f43fd92e3...5b395c716d57eaecad2de3b9ff7e451baa3d1251) at head `5b395c7`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $1.30.</sub>

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (CBirkbeck) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `5b395c7`; the finding stands — Two new relabelling lemmas are direct wrappers around existing Mathlib declarations, and four one-way closure lemmas duplicate the adjacent iff APIs.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4059987715.</sub>

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (CBirkbeck) [inline TauCeti/InformationTheory/Coding/Equivalence.lean:1]: ### ⛔ reuse — block  `codex/gpt-5.6-sol`

Two new relabelling lemmas duplicate existing Mathlib declarations up to definitional unfolding.

- `TauCeti/InformationTheory/Coding/Equivalence.lean:146` — `hammingNorm_funLeft` and `hammingDist_funLeft` are thin restatements of `Equiv.hammingNorm_comp` and `Equiv.hammingDist_comp`; the diff itself proves each by exactly the existing theorem and only replaces prior direct uses with the wrappers. _Fix:_ Delete both declarations and retain the existing direct calls to `Equiv.hammingNorm_comp e.symm x` and `Equiv.hammingDist_comp e.symm x y` in the permutation-group proofs.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 32s · 64.3k in / 970 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/96a55b3a0f2514126d06fa1dd834816f43fd92e3...5b395c716d57eaecad2de3b9ff7e451baa3d1251) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md)</sub>

Comment (sqrt-of-2) [reply TauCeti/InformationTheory/Coding/Equivalence.lean:1]: Contesting both bullets.

## 1. `hammingNorm_funLeft` / `hammingDist_funLeft` are not deletable wrappers

Two corrections of fact first.

**They do not wrap "existing Mathlib declarations."** `Equiv.hammingNorm_comp` and
`Equiv.hammingDist_comp` are *TauCeti* declarations, added by this repo in
`TauCeti/InformationTheory/Hamming.lean:99,105` (inside `namespace Equiv`). Mathlib's
`hammingNorm_comp` / `hammingDist_comp`
(`.lake/packages/mathlib/Mathlib/InformationTheory/Hamming.lean:120,185`) are a different
statement — pointwise application of a family `f : ∀ i, γ i → β i`, not coordinate relabelling.

**They are `@[simp]` lemmas in a syntactic normal form the existing ones cannot reach.**
`Equiv.hammingNorm_comp` has LHS `hammingNorm (x ∘ ⇑e)`; the new ones have LHS
`hammingNorm ((LinearMap.funLeft R R ⇑e) x)`. These are defeq but not syntactically equal, and
Mathlib's `LinearMap.funLeft_apply` is pointwise (`funLeft R M f g i = g (f i)`), so it cannot
rewrite under `hammingNorm`. Empirically, against the current branch:

```lean
import TauCeti.InformationTheory.Coding.Equivalence
open TauCeti
-- (1) both close by `simp` with the new lemmas:
example {R ι κ : Type} [Semiring R] [DecidableEq R] [Fintype ι] [Fintype κ]
    (e : κ ≃ ι) (x : ι → R) :
    hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x := by simp
example {R ι κ : Type} [Semiring R] [DecidableEq R] [Fintype ι] [Fintype κ]
    (e : κ ≃ ι) (x y : ι → R) :
    hammingDist (LinearMap.funLeft R R e x) (LinearMap.funLeft R R e y) = hammingDist x y := by simp
-- (2) with `Equiv.hammingNorm_comp` handed to simp and the new lemma erased, simp is stuck:
example {R ι κ : Type} [Semiring R] [DecidableEq R] [Fintype ι] [Fintype κ]
    (e : κ ≃ ι) (x : ι → R) :
    hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x := by
  simp [Equiv.hammingNorm_comp, -hammingNorm_funLeft]
```

```
test.lean:14:2: error: `simp` made no progress
```

Blocks (1) compile; block (2) is the *only* error. So `Equiv.hammingNorm_comp` demonstrably does
not replace these lemmas in simp-normal form. They also do real downstream work: with
`hammingNorm_monomialEquiv` erased, `hammingNorm (monomialEquiv u e x) = hammingNorm x` still
closes by `simp` over `[Subsingleton Rˣ]`, routing through this PR's `@[simp]`
`monomialEquiv_eq_funCongrLeft` → `LinearEquiv.funCongrLeft_apply` → `hammingNorm_funLeft`.
That is exactly the "per-type restatement of a generic lemma … with genuine consumers" the rubric
carves out, and they have two direct call sites besides (`Equivalence.lean:497,504`).

**This bullet also directly contradicts two earlier findings on this PR**, which is why I am
contesting rather than pushing:

- `api-design`, round 3 (https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4059878853)
  *required* these declarations, prescribing the exact signature and proof now on the branch:
  "*Fix: Take the equivalence directly: `hammingNorm_funLeft (e : κ ≃ ι) (x : ι → R) :
  hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x := Equiv.hammingNorm_comp e x`, and
  likewise for `hammingDist_funLeft`*". Commit `5b395c7` is that fix.
- `reuse`, round 3 (https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4059878769)
  raised this same objection and then **withdrew it**: "*my earlier objection to the relabelling
  weight/distance wrappers is withdrawn, since they are now `@[simp]` in the `LinearMap.funLeft`
  simp-normal form that `Equiv.hammingNorm_comp` cannot match syntactically and each has a
  consumer.*"

Deleting them would re-open the api-design finding verbatim, so satisfying this bullet cannot
converge.

## 2. The four one-directional closure lemmas

This reverses an instruction from the same rubric one round earlier. `reuse` round 3
(https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4059878769) told me to keep
`IsEven.of_isMonomialEquivalent` / `IsDoublyEven.of_isMonomialEquivalent` and re-prove them
through the iffs: "*Fix: Prove them as `(isEven_iff_of_isMonomialEquivalent h).mp hC` and
`(isDoublyEven_iff_of_isMonomialEquivalent h).mp hC`, **matching the `.mpr` pattern already used
for `IsEven.directSum` (line 44) and `IsDoublyEven.directSum` (line 55)***." Commit `c09bc9b` is
that fix; this bullet asks me to delete all four instead.

On the merits, the `@[simp]`-iff-plus-dot-notation pair is settled Mathlib practice, including
the exact proof shape used here:

- `Mathlib/Data/Set/Countable.lean:236-241` — `@[simp] Set.countable_union : (s ∪ t).Countable ↔
  s.Countable ∧ t.Countable`, immediately followed by `Set.Countable.union (hs) (ht) :
  (s ∪ t).Countable := countable_union.2 ⟨hs, ht⟩`. That is character-for-character the relation
  between `isEven_directSum_iff` and `IsEven.directSum`.
- `Mathlib/Data/Set/Finite/Basic.lean:503,680` — `Set.Finite.union` and `@[simp]
  Set.finite_union`.
- For the transport pair: `Mathlib/Basic/Finite/Defs.lean:110,113` — `Finite.of_equiv` and
  `Equiv.finite_iff`, adjacent; likewise `Countable.of_equiv` / `Equiv.countable_iff` at
  `Mathlib/Basic/Countable/Defs.lean:69,72`. Mathlib keeps both forms because the dot-notation
  version is what callers actually use as a term.

"Unused" is true of every declaration in a foundational PR on the round it lands; these four are
the literal statement of the roadmap bullet this PR serves ("*Prove closure of doubly-even and
Type II codes under direct sum and preservation under coordinate permutation*"), and they are the
form the follow-up Type II work (#7476) will consume.

The branch is green and axiom-clean at `5b395c7`: `lake build` — `Build completed successfully
(12767 jobs)`; `lake exe axioms` — allowlist only.

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (CBirkbeck) [inline TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The binary operations API omits the coordinate-permutation invariance promised by the roadmap, exposing only its monomial generalization.

- `TauCeti/InformationTheory/Coding/Binary/Operations.lean:58` — The equivalence-invariance section provides `iff` and forward lemmas only for `IsMonomialEquivalent`, although the roadmap explicitly requires preservation under coordinate permutation and this library develops permutation equivalence as a parallel public notion. _Fix:_ Add permutation-equivalence `iff` and forward preservation lemmas for both `IsEven` and `IsDoublyEven`, deriving them via `IsPermutationEquivalent.isMonomialEquivalent`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 36s · 86.5k in / 996 out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/96a55b3a0f2514126d06fa1dd834816f43fd92e3...5b395c716d57eaecad2de3b9ff7e451baa3d1251) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (CBirkbeck) [inline TauCeti/InformationTheory/Coding/Equivalence.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

Two coordinate-relabelling lemmas are placed in the wrong namespace for their first explicit argument.

- `TauCeti/InformationTheory/Coding/Equivalence.lean:150` — `hammingNorm_funLeft` and `hammingDist_funLeft` live directly in `TauCeti`, although their first explicit argument `e : κ ≃ ι` has Mathlib type `Equiv`; this prevents the expected dot-notation API. _Fix:_ Move both declarations into namespace `Equiv` (retaining suitable names there) and update their call sites.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 40s · 83.2k in / 1.4k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/96a55b3a0f2514126d06fa1dd834816f43fd92e3...5b395c716d57eaecad2de3b9ff7e451baa3d1251) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md)</sub>

Comment (CBirkbeck) [reply TauCeti/InformationTheory/Coding/Equivalence.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `5b395c7`; this clears the finding ✅ — approved on `5b395c7`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4061017410.</sub>

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (CBirkbeck) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `5b395c7`; this clears the finding ✅ — approved on `5b395c7`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4059986637.</sub>

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (ldct) [inline TauCeti/InformationTheory/Coding/Equivalence.lean:1]: ### ⛔ reuse — block  `codex/gpt-5.6-sol`

Two new relabelling lemmas directly duplicate existing TauCeti API and should be removed.

- `TauCeti/InformationTheory/Coding/Equivalence.lean:153` — `Equiv.hammingNorm_funLeft` and `Equiv.hammingDist_funLeft` are thin restatements of the existing `Equiv.hammingNorm_comp` and `Equiv.hammingDist_comp`, differing only by the definitional unfolding of `LinearMap.funLeft`. _Fix:_ Delete both wrappers and keep using `Equiv.hammingNorm_comp e x` and `Equiv.hammingDist_comp e x y` directly in `hammingNorm_apply_of_mem_permutationGroup` and `hammingDist_apply_of_mem_permutationGroup`.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 41s · 137.5k in / 1.5k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/810dd335ed87c39ae23053ce3186b5cd99979c83...b9a642f58ef1a55427ab810ba49d924b51545b11) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/reuse.md)</sub>

**Comment by ldct** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The changed definitions and theorems faithfully express weight-divisibility closure under direct sums, invariance under monomial and permutation equivalence, and the collapse of monomial transformations when the unit group is subsingleton. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No material duplication found. The generic divisibility transport, direct-sum criterion, trivial-unit collapse, and `LinearMap.funLeft` simp lemmas provide distinct reusable APIs not directly replaced by existing TauCeti or Mathlib declarations. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR directly advances the cited Layer 4 closure-and-equivalence target. Its generic divisibility and trivial-unit lemmas are proximate supporting infrastructure within the same coherent topic, and the prerequisite direct-sum and equivalence APIs already exist. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The relevant module documentation credits Huffman and Pless, while the supporting Hamming lemmas are routine API bridges with no identifiable external formalization requiring additional attribution. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The canonical public surface is appropriately located, complete for the introduced operations and equivalences, and carries suitable simplification annotations without retaining obsolete compatibility APIs. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The declarations are at natural levels: weight divisibility is proved generically over semirings, binary closure follows by specialization, and monomial collapse assumes exactly that the unit group is subsingleton. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The generic relabeling lemmas now live in the Hamming module, while the direct-sum, equivalence, and binary-specific declarations are in their canonical topic modules with appropriate imports. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, use consistent argument-position terminology, and place declarations in appropriate namespaces. The earlier `Sum.elim 0 y` naming issue is resolved by `sumElim_zero_left_mem_directSum`. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new module and public declarations are documented accurately, and the prior proof-process documentation issue has been resolved. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The added proofs are concise, factor shared reasoning into reusable lemmas, and avoid undocumented definitional-equality manipulation or brittle proof chains. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/810dd335ed87c39ae23053ce3186b5cd99979c83...453e004b00413a0efc5ae490ec136ac404226ae2) at head `453e004`. rubrics @ [`9e06df9`](https://github.com/TauCetiProject/TauCetiReview/tree/9e06df966f1e3d476f8b8035518d386ecd1fad0f/rubrics). Review spend: $5.45.</sub>

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (ldct) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `b9a642f`; the finding stands — Two new relabelling lemmas directly duplicate existing TauCeti API and should be removed.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4061017410.</sub>

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (sqrt-of-2) [reply TauCeti/InformationTheory/Coding/Equivalence.lean:1]: Contesting this bullet: `Equiv.hammingNorm_funLeft` / `Equiv.hammingDist_funLeft` are not deletable duplicates, and deleting them re-opens two other rubrics' findings on this same PR.

## 1. The located replacement does not replace them

The rubric reserves `block` for "a declaration an existing one directly replaces", and carves out that "a specialization with genuine consumers can earn its place". `Equiv.hammingNorm_comp` demonstrably cannot replace these, because `simp` normalises a coordinate relabelling to `LinearMap.funLeft`, not to `∘`.

Two corrections of fact first: these do not wrap *Mathlib* declarations. `Equiv.hammingNorm_comp` / `Equiv.hammingDist_comp` are TauCeti's own, in `TauCeti/InformationTheory/Hamming.lean:99,105`; Mathlib's identically-named `hammingNorm_comp` / `hammingDist_comp` (`Mathlib/InformationTheory/Hamming.lean:120,185`) are a different statement (pointwise application of a family `f : ∀ i, γ i → β i`, not relabelling).

Empirically, on the current branch (`lake env lean` on a scratch file, `Equivalence.lean` imported). These four compile with no error:

```lean
example {R ι κ : Type} [Semiring R] [DecidableEq R] [Fintype ι] [Fintype κ]
    (e : κ ≃ ι) (x : ι → R) :
    hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x := by simp

example {R ι κ : Type} [Semiring R] [DecidableEq R] [Fintype ι] [Fintype κ]
    (e : κ ≃ ι) (x y : ι → R) :
    hammingDist (LinearMap.funLeft R R e x) (LinearMap.funLeft R R e y) = hammingDist x y := by
  simp

example {R ι κ : Type} [Semiring R] [DecidableEq R] [Fintype ι] [Fintype κ]
    (e : κ ≃ ι) (x : ι → R) :
    hammingNorm (LinearEquiv.funCongrLeft R R e x) = hammingNorm x := by simp

-- downstream consumer: with `hammingNorm_monomialEquiv` erased, the trivial-units route is
-- monomialEquiv_eq_funCongrLeft → LinearEquiv.funCongrLeft_apply → Equiv.hammingNorm_funLeft
example {R ι κ : Type} [CommSemiring R] [Subsingleton Rˣ] [DecidableEq R] [Fintype ι]
    [Fintype κ] (u : ι → Rˣ) (e : ι ≃ κ) (x : ι → R) :
    hammingNorm (monomialEquiv u e x) = hammingNorm x := by
  simp [-hammingNorm_monomialEquiv]
```

With the wrapper erased and the suggested replacement handed to `simp` explicitly, both shapes are stuck:

```lean
example ... : hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x := by
  simp [Equiv.hammingNorm_comp, -Equiv.hammingNorm_funLeft]
-- error: `simp` made no progress

example ... : hammingDist (LinearMap.funLeft R R e x) (LinearMap.funLeft R R e y) = hammingDist x y := by
  simp [Equiv.hammingDist_comp, -Equiv.hammingDist_funLeft]
-- error: `simp` made no progress

example ... : hammingNorm (monomialEquiv u e x) = hammingNorm x := by
  simp [-hammingNorm_monomialEquiv, -Equiv.hammingNorm_funLeft, Equiv.hammingNorm_comp]
-- error: unsolved goals
-- ⊢ hammingNorm ((LinearMap.funLeft R R ⇑e.symm) x) = hammingNorm x
-- warning: This simp argument is unused: Equiv.hammingNorm_comp
```

That last block is decisive: Lean's own `unusedSimpArgs` linter reports `Equiv.hammingNorm_comp` as *unused* on the very goal the fix proposes it for. The reason is that `LinearMap.funLeft_apply` is pointwise (`funLeft R M f g i = g (f i)`), so nothing rewrites `funLeft R R e x` to `x ∘ ⇑e` under `hammingNorm`. Consumers: the two direct call sites `Equivalence.lean:513,520` plus the simp route above.

I have pushed `df9daa8e`, which records exactly this in the two docstrings, so the reason for the restatement is visible in source rather than only in this thread. The statements and proofs are unchanged.

## 2. The identical finding was contested and cleared on `5b395c7`, by this rubric and this judge

This exact bullet was raised at https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4060969292, contested with the same evidence, and answered `✅ approved on 5b395c7` (https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4061057091), also by `codex/gpt-5.6-sol`. The only change to these two declarations between `5b395c7` and `b9a642f` is the namespace move that the `naming` rubric required in that same round (`git diff 5b395c7..b9a642f` touches them only by relocating them from `TauCeti` into `namespace Equiv` and prefixing the two call sites). Nothing about the duplication question changed.

## 3. Deleting them contradicts two other findings on this PR

- `api-design`, round 3 (https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4059878853) *required* these declarations and prescribed their exact signature and proof, verbatim: "*Fix: Take the equivalence directly: `hammingNorm_funLeft (e : κ ≃ ι) (x : ι → R) : hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x := Equiv.hammingNorm_comp e x`, and likewise for `hammingDist_funLeft`*". Its header also records that an earlier round's finding was "*the absent funLeft normal-form lemmas*", i.e. their absence was itself the defect.
- `naming`, round 2 (https://github.com/TauCetiProject/TauCeti/pull/7882#discussion_r4061056567) required "*Move both declarations into namespace `Equiv` (retaining suitable names there) and update their call sites*" — an instruction that presupposes they exist. Commit `b9a642f` is that fix.

So `X` (these lemmas must exist, in `namespace Equiv`, in the `funLeft` normal form) and `not X` (delete them) are both being required on the same PR. I am contesting rather than pushing a deletion, because complying here cannot converge: it would re-fire the `api-design` finding verbatim and vacate the `naming` fix.

Green and axiom-clean at `df9daa8e`: `lake build` — `Build completed successfully (12767 jobs)`; `lake exe axioms` — `audited 144130 TauCeti declaration(s); all within the allowlist [propext, Classical.choice, Quot.sound]`.

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `df9daa8ec39f`.

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (ldct) [inline TauCeti/InformationTheory/Coding/Equivalence.lean:1]: ### ✅ reuse — now passing on `453e004`.

File: TauCeti/InformationTheory/Coding/DirectSum.lean
Comment (ldct) [inline TauCeti/InformationTheory/Coding/DirectSum.lean:1]: ### ✅ api-design — now passing on `453e004`.

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (ldct) [inline TauCeti/InformationTheory/Coding/Equivalence.lean:1]: ### ✅ placement — now passing on `453e004`.

File: TauCeti/InformationTheory/Coding/DirectSum.lean
Comment (ldct) [inline TauCeti/InformationTheory/Coding/DirectSum.lean:1]: ### ✅ naming — now passing on `453e004`.

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (ldct) [inline TauCeti/InformationTheory/Coding/Equivalence.lean:1]: ### ✅ documentation — now passing on `453e004`.

File: TauCeti/InformationTheory/Coding/Binary/Operations.lean
Comment (ldct) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `df9daa8`; the finding stands — The coordinate-relabeling lemmas duplicate existing Hamming API and only replace proofs that already used that API directly.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4061843538.</sub>

Comment (ldct) [reply TauCeti/InformationTheory/Coding/Binary/Operations.lean:1]: **Re: your reply on `proof-quality` —** re-reviewed on `df9daa8`; this clears the finding ✅ — approved on `df9daa8`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4059986637.</sub>

File: TauCeti/InformationTheory/Coding/DirectSum.lean
Comment (sqrt-of-2) [reply TauCeti/InformationTheory/Coding/DirectSum.lean:1]: Contesting this finding because the requested `@[simp]` attribute is rejected by the repository's enforced `simpNF` linter. I applied the suggested attribute and ran `bash scripts/lint-env.sh .`; it reported a new violation for `Submodule.forall_dvd_hammingNorm_directSum_iff`: the left-hand side first simplifies via `Submodule.mem_directSum_iff` and `and_imp`, so the proposed theorem is not in simp normal form. The exact diagnostic says: `Left-hand side simplifies from ∀ z, z ∈ C.directSum D → k ∣ hammingNorm z to ∀ z, (fun i => z (.inl i)) ∈ C → (fun j => z (.inr j)) ∈ D → k ∣ hammingNorm z` and instructs changing the LHS. Changing the theorem to that expanded LHS would destroy the public direct-sum characterization this finding calls characteristic, while adding `@[nolint simpNF]` or editing the lint allowlist is forbidden by the repository rules. I therefore removed the experimental attribute and retained the theorem's natural statement.

File: TauCeti/InformationTheory/Coding/Equivalence.lean
Comment (sqrt-of-2) [reply TauCeti/InformationTheory/Coding/Equivalence.lean:1]: Contesting deletion of these two lemmas because `Equiv.hammingNorm_comp` and `Equiv.hammingDist_comp` do not replace the `LinearMap.funLeft` simp-normal-form API. Rechecked on the current branch: `by simp` proves `hammingNorm (LinearMap.funLeft R R e x) = hammingNorm x`; after locally removing `Equiv.hammingNorm_funLeft` from the simp set, `simp [Equiv.hammingNorm_comp]` fails with `simp made no progress`. `LinearMap.funLeft_apply` is pointwise and cannot rewrite under `hammingNorm`. This is also the exact API that the earlier api-design finding required (`hammingNorm_funLeft ... := Equiv.hammingNorm_comp e x`, and likewise for distance), while the naming finding required moving both into namespace `Equiv`; deleting them would directly reverse those review requirements. The current placement finding correctly observes that they are generic, so the code fix moves them beside `Equiv.hammingNorm_comp` / `Equiv.hammingDist_comp` in `InformationTheory/Hamming.lean`, where they form the usable linear-map-facing API, rather than deleting them and regressing api-design.

Comment (ldct) [reply TauCeti/InformationTheory/Coding/Equivalence.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `df9daa8`; this clears the finding ✅ — approved on `df9daa8`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4062342107.</sub>

File: TauCeti/InformationTheory/Coding/DirectSum.lean
Comment (ldct) [reply TauCeti/InformationTheory/Coding/DirectSum.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `df9daa8`; the finding stands — The generic coordinate-relabelling lemmas are public but placed in a coding-specific module instead of the Hamming API they extend.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4062341908.</sub>

**Comment by ldct** [comment]
🔍 Review in progress — `codex` reviewing `453e004b0041`.
